US04278809
Preparation of 2-Isocyanatoethyl Methacrylate
A 3-liter jacketed reactor vessel was charged with 100 ml of methylene chloride and cooled to approximately 0° C. A solution of 2-isopropenyl-2-oxazoline (100 g) in 177 ml of water, a solution of phosgene (131.5 g) in 400 ml of methylene chloride, and a solution of 35 weight percent sodium hydroxide in water were added simultaneously to the reaction vessel with stirring and cooling. The rates of addition were such that the three reagents were added over approximately a 50 minute time span with the temperature being maintained at 10° to 18° C. Stirring was continued for two minutes and the layers allowed to separate. The organic layer was washed twice with 100 ml portions of a saturated aqueous sodium bicarbonate solution, dried over sodium sulfate and concentrated under reduced pressure. The colorless concentrate was inhibited with 0.1 g of phenothiazine and the desired product recovered therefrom as a colorless liquid (133.6 g) boiling at 46°-47° C./0.4 mm Hg. Product yield 95-96 percent of theory.

reactant | 2-isopropenyl-2-oxazoline | 100 g | C(=C)(C)C=1OCCN1 | C6H9NO
reactant | phosgene | 131.5 g | C(=O)(Cl)Cl | CCl2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 177 ml | O | H2O
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-Isocyanatoethyl Methacrylate | yield 95-96 percent | C(C(=C)C)(=O)OCCN=C=O | C7H9NO3
